US08486950B2
Methyl 2,6-dichloro-4-iodobenzoate (46 g, 0.14 mol) was dissolved in pyridine (1380 mL) and water (230 mL). Lithium iodide (37.2 g, 0.28 mol) was added in one portion. The resulting mixture was heated at 130° C. for 30 hours. The reaction was concentrated under reduced pressure. The residue was dissolved in 2N HCl (500 mL) and extracted with ethyl acetate (3×1 L). The combined organic extracts were dried over Na2SO4 and concentrated under reduced pressure. The residue was dissolved in N-methyl morpholine (5 mL) and concentrated again. The residue was diluted with 2N HCl (100 mL) and extracted with dichloromethane (3×100 mL). The combined organic extracts were dried over Na2SO4 and concentrated under reduced pressure to give 2,6-dichloro-4-iodobenzoic acid (39 g, yield: 88%). 1H NMR (DMSO-d6, 400 MHz) δ 14.26 (brs, 1H), 7.99 (s, 2H).

reactant | Methyl 2,6-dichloro-4-iodobenzoate | 0.14 mol, 46 g | ClC1=C(C(=O)OC)C(=CC(=C1)I)Cl | C8H5Cl2IO2
reactant | Lithium iodide | 0.28 mol, 37.2 g | [I-].[Li+]
solvent | pyridine | 1380 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 230 mL | O | H2O
product | 2,6-dichloro-4-iodobenzoic acid | 39 g, yield: 88% | ClC1=C(C(=O)O)C(=CC(=C1)I)Cl | C7H3Cl2IO2
